US04539429
Methyllithium (210 ml, 1.25M methyllithium-lithium bromide complex in ether) (0.263 mole) was added dropwise to a solution of 25.49 g (0.0732 mole) of 2-(4-benzyloxyphenylamino)-5-methoxybenzoic acid in 226 ml of tetrahydrofuran cooled to 0°-5° C. The reaction mixture was stirred for 3 hours at 0°-5° C. Ethyl acetate was then added and the mixture poured into ice and saturated ammonium chloride solution. The aqueous suspension was extracted with ether, the ether extracts dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from toluene to give 16.1 g of 1-[2-(4-benzyloxyphenylamino)-5-methoxyphenyl]ethanone, yellow-orange solid, m.p. 80°-81.5° C.

reactant | Methyllithium | 0.263 mole, 1.25M, 210 ml | C[Li]
reactant | 2-(4-benzyloxyphenylamino)-5-methoxybenzoic acid | 0.0732 mole, 25.49 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C=C1)OC | C21H19NO4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 226 ml | O1CCCC1 | C4H8O
product | 1-[2-(4-benzyloxyphenylamino)-5-methoxyphenyl]ethanone | 16.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=C(C=C1)OC)C(C)=O | C22H21NO3
